datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:18][O:29],7.397312
[C:0]([C:1]([C:2]([O:3][H:11])[H:10])([O:4][O:5][H:12])[H:9])([H:6])([H:7])[H:8].[O:13][O:14]>>[C:0]([C:1]([C:2]([O:3][H:11])([H:10])[O:13][O:14])([O:4][O:5][H:12])[H:9])([H:6])([H:7])[H:8],-2.9097628
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])[C:7](=[C:8]([H:22])[H:23])[H:21])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]1([C:6]([H:18])([H:19])[H:20])[C:7](=[C:8]([H:22])[H:23])[H:21])([H:9])[H:10],68.1992
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]([S:8][H:11])[H:10])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:9])([S:8][H:11])[H:10],103.345
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[N:10]([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][N:10]([H:11])[H:12],24.9994
[C:1]1([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]1[H:14]>>[C:1]1[C:4]([H:3])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]1[H:14],150.431536
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:19]([C:18]([H:21])([H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:10],14.1419
[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15].[O:16]>>[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15].[H:8][O:16],24.60192
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10],77.4877
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][O:30][H:31],-5.974752
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[S:14]=[C:15][S:16][H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15](=[S:14])[S:16][H:17],46.8608
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:16]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[H:16],6.4852
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13]([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:14])([H:4])([H:5])[H:6].[S:13][H:15],-12.9704
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](#[C:19][C:20]([C:21]([H:24])([H:25])[H:26])[C:22]([H:27])([H:28])[H:29])[H:23]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:20]([C:19]#[C:18][H:23])([C:21]([H:24])([H:25])[H:26])[C:22]([H:27])([H:28])[H:29])[H:10],32.2586
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6](=[C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:10],91.6714
[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:3]([H:8])([H:9])[H:10])[H:4].[C:11](=[O:12])[H:13]>>[C-:11]#[O+:12].[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:3]([H:8])([H:9])[H:10])([H:4])[H:13],0.0
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([c:28]1[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]1[H:42])[H:37])([H:34])([H:35])[H:36]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27]([C:26]([H:34])([H:35])[H:36])([c:28]1[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]1[H:42])[H:37])[H:14])([H:12])[H:13],41.3379
